US08809376B2
{(S)-6-[(R)-4-(3,5-Difluoro-benzyl)-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 3,5-difluoro-benzylzinc bromide following a procedure analogous to that described in Step 6 of Intermediate 1; [1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene]-(3-chloropyridyl)-palladium(II) dichloride (Pd-PEPPSI-IPr) is used as catalyst. LC (method 9): tR=0.91 min; Mass spectrum (ESI+): m/z=491 [M+Na]+.

reactant | {(S)-6-[(R)-4-bromo-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)Br)=O | C20H18BrFO4
reactant | 3,5-difluoro-benzylzinc bromide | [Br-].FC=1C=C(C[Zn+])C=C(C1)F
catalyst | [1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene]-(3-chloropyridyl)-palladium(II) dichloride | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[Pd-3](C1=NC=CC=C1Cl)(Cl)Cl
product | {(S)-6-[(R)-4-(3,5-Difluoro-benzyl)-7-fluoro-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C=CC(=C21)F)CC2=CC(=CC(=C2)F)F)=O | C27H23F3O4
